US04666933
183 g (1.56 mol) of isopentyl nitrite are added dropwise to 175 g (1.56 mol) of 1,3-dimethyl-pyrazolin-5-one and 84.4 g (1.56 mol) of sodium methylate in 1 L of absolute ethanol, while stirring and cooling with ice so that the internal temperature does not rise above 25° C. to 30° C. When the addition has ended, stirring is continued at room temperature for 24 hours and the sodium salt of 1,3-dimethyl-4-hydroximino-pyrazolin-5-one which has precipitated is filtered off with suction. The crystalline product is dissolved in 1 L of water and the solution is acidified with glacial acetic acid. For complete precipitation, the mixture is cooled at 0° C. for several hours, and the product is then filtered off with suction. 162 g (74% of theory) of 1,3-dimethyl-4-hydroximino-pyrazolin-5-one of melting point 93° C. are obtained.

reactant | isopentyl nitrite | 1.56 mol, 183 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 1,3-dimethyl-pyrazolin-5-one | 1.56 mol, 175 g | CN1NC(=CC1=O)C | C5H8N2O
reactant | sodium methylate | 1.56 mol, 84.4 g | C[O-].[Na+]
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 1,3-dimethyl-4-hydroximino-pyrazolin-5-one | 162 g, 74% | CN1NC(C(C1=O)=NO)C | C5H9N3O2
